US05646283
6,7-Dihydro-10-fluoro-3-(2-tolyl)-5H-benzo[6,7]cyclohepta[1,2-b]quinoline-8-carboxylic acid (compound 11):
Potassium hydroxide (790 mg, 12.0 mmol) was dissolved in 3 ml of water, and 400 mg (2.40 mmol) of 5-fluoroisatin was added thereto. To this was added 600 mg (2.40 mmol) of compound s obtained in Reference Example 19 which was dissolved in dioxane-ethanol (2 ml-4 ml). The mixture was heat-refluxed for 6 days. The solvent was distilled off, and the residue was dissolved in water and washed with ether. The aqueous layer was filtered through Celite, and acetic acid was added to the flitrate. The precipitated crystals were collected by filtration. These crystals were then dried under reduced pressure, and recrystallized from dimethylformamide-water to obtain 460 mg of the above-mentioned compound (yield 48%).

reactant | Potassium hydroxide | 12.0 mmol, 790 mg | [OH-].[K+]
reactant | 5-fluoroisatin | 2.40 mmol, 400 mg | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | dioxane-ethanol | 2 ml-4 ml | O1C(COCC1)CCO | C6H12O3
solvent | water | 3 ml | O | H2O
product | 6,7-Dihydro-10-fluoro-3-(2-tolyl)-5H-benzo[6,7]cyclohepta[1,2-b]quinoline-8-carboxylic acid | 460 mg, yield 48% | FC=1C=C2C(=C3C(=NC2=CC1)C1=C(CCC3)C=C(C=C1)C1=C(C=CC=C1)C)C(=O)O | C26H20FNO2
